US05858272
5-Propyl-2-(3,5-difluorophenyl)-1,3-dioxane (5.0 g; 20.6 mmol), which had been synthesized in Step 1 of Example 1, was dissolved in THF (50 ml), and the solution was cooled to -60° C. in a nitrogen atmosphere. A solution (16.1 ml; 25.8 mmol) of 1.60M n-butyl lithium in hexane was added dropwise thereto so that the temperature of the mixture did not exceed -45° C. The mixture was stirred for 1.5 hours with the temperature being maintained below -45° C. Subsequently, a solution (51.6 ml; 25.8 mmol) of 0.5M zinc chloride in THF was added dropwise so that the temperature, of the mixture did not exceed -50° C. Thereafter, the mixture was warmed to room temperature and stirred for 30 minutes. Tetrakistriphenylphosphine palladium (0.5 g) and 1-bromo-3,5-difluoro-4-trifluoromethylbenzene (6.73 g; 25.8 mmol) were added, and the mixture was refluxed for 2 hours and 20 minutes. Water (100 ml) was added to the resultant reaction mixture, and the material produced was extracted with toluene. The extract was sequentially washed with saturated aqueous ammonium chloride solution, saturated sodium bicarbonate solution, and saturated brine, and then dried over magnesium sulfate. Subsequently, the solvent was evaporated. The residue was purified by column chromatography (eluent: toluene). The solvent was evaporated, and the residue was recrystallized twice from heptane, to thereby obtain 2.1 g (5.0 mmol) of 5-propyl-2-(4-(3,5-difluoro-4-trifluoromethylphenyl)-3,5-difluorophenyl)-1,3-dioxane. The yield of this compound from 5-propyl-2-(3,5-difluorophenyl)-1,3-dioxane was 24.3%.

reactant | 5-Propyl-2-(3,5-difluorophenyl)-1,3-dioxane | 20.6 mmol, 5.0 g | C(CC)C1COC(OC1)C1=CC(=CC(=C1)F)F | C13H16F2O2
reactant | n-butyl lithium | 25.8 mmol, 1.60M, 16.1 ml | C(CCC)[Li]
reactant | 1-bromo-3,5-difluoro-4-trifluoromethylbenzene | 25.8 mmol, 6.73 g | BrC1=CC(=C(C(=C1)F)C(F)(F)F)F | C7H2BrF5
reactant | Water | 100 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
catalyst | zinc chloride | 25.8 mmol, 0.5M, 51.6 ml | [Cl-].[Zn+2].[Cl-]
product | 5-propyl-2-(4-(3,5-difluoro-4-trifluoromethylphenyl)-3,5-difluorophenyl)-1,3-dioxane | 5.0 mmol, 2.1 g | C(CC)C1COC(OC1)C1=CC(=C(C(=C1)F)C1=CC(=C(C(=C1)F)C(F)(F)F)F)F | C20H17F7O2
